US07601844B2
Step-5: 4-Chloro-6-(trifluoromethyl)pyrido[3,2-d]pyrimidine
The title compound was prepared from trifluoromethyl-3H-pyrido[3,2-d]pyrimidin-4-one using the procedure described in Example 599, Step 2. A POCl3 (9.3 ml) suspension of 6-Trifluoromethyl-3H-pyrido[3,2-d]pyrimidin-4-one (1.0 g, 4.7 mmol) was heated at reflux for 4 hours, over which time the amber suspension became a clear, deep blue solution. The reaction was cooled to room temperature and concentrated under reduced pressure. The residue concentrated from dichloromethane 3× to remove residual POCl3. The residue was partitioned between 1:1 EtOAc and saturated sodium bicarbonate (28 ml). The mixture was stirred until visible gas evolution ceased. The suspension was filtered through a plug of celite. The layers of the filtrate were separated, and the organic phase was washed successively with saturated sodium bicarbonate and saturated sodium chloride, dried with magnesium sulfate and concentrated under reduced pressure to yield the semi-pure product as a purple solid. No further purification was carried out. The crude product was greater than 90% pure (as determined by analytical HPLC). MS: ES+ 234.11 (M+H, 100%

reactant | trifluoromethyl-3H-pyrido[3,2-d]pyrimidin-4-one | FC(F)(F)C=1NC(C2=C(N1)C=CC=N2)=O | C8H4F3N3O
reactant | POCl3 | 9.3 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 6-Trifluoromethyl-3H-pyrido[3,2-d]pyrimidin-4-one | 4.7 mmol, 1.0 g | FC(C=1C=CC=2N=CNC(C2N1)=O)(F)F | C8H4F3N3O
product | 4-Chloro-6-(trifluoromethyl)pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)C(F)(F)F | C8H3ClF3N3
